US09034900B2
5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-1-methyl-3-(2,2,2-trifluoroethoxy)pyridin-2-one
A mixture of 5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-3-hydroxy-1-methylpyridin-2-one (50 mg, 0.14 mmol), 2,2,2-trifluoroethyl trifluoromethanesulfonate (33 mg, 0.14 mmol), Cs2CO3 (134.48 mg, 0.42 mmol) in DMF (2 mL) was stirred at 20° C. for 2 h After the mixture was filtered, the filtrate was concentrated in vacuo. The residue was purified by prep-HPLC to give the title compound (29 mg, 47%) as an off-white solid. 1H NMR (CDCl3, 400 MHz) δ 7.84 (m, 1H), 7.77 (m, 1H), 7.41 (m, 2H), 7.04 (m, 1H), 4.58 (m, 2H), 3.95 (m, 2H), 3.70 (s, 3H), 3.14 (m, 2H), 1.33-1.27 (m, 4H), 0.72-0.69 (m, 2H), 0.39-0.35 (m, 2H). LCMS (M+H)+=446.

reactant | 5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-3-hydroxy-1-methylpyridin-2-one | 0.14 mmol, 50 mg | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)C=1C=C(C(N(C1)C)=O)O | C18H21NO5S
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.14 mmol, 33 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Cs2CO3 | 0.42 mmol, 134.48 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-1-methyl-3-(2,2,2-trifluoroethoxy)pyridin-2-one | 29 mg, 47% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)C=1C=C(C(N(C1)C)=O)OCC(F)(F)F | C20H22F3NO5S
